US04559348
5-Methyl-7-piperidino-1H-pyrazolo(4,3-b)pyridine (2)
7-Chloro-5-methyl-1H-pyrazolo(4,3-b)pyridine (1 g) and piperidine (10 ml) were heated under reflux for 24 h. The piperidine was removed in vacuo to yield a pale yellow solid which was washed with water to yield the piperidino-compound (1 g, 78%), Crystallisation from ethanol-water gave pale yellow crystals, m.p. 244°. Found: C, 66.5; H, 7.55.; N, 25.7. C12H16N4 requires C, 66.6; H, 7.5; N, 25.9%), νmax 2660-2200 (broad), 2000-1800 (broad), 1540, 1430, 1355, 1290, 1210, 1020, 980, 810 and 760 cm-1, δ (CF3COOH) 1.97 (6H, s, --CH2 --), 2.70 (3H, s, 5 --CH3), 4.13 (4H, s, --N--CH2 --), 6.59 (1H, s, 6-H), 8.32 (1H, s, 3-H), total proton count 15.

reactant | 7-Chloro-5-methyl-1H-pyrazolo(4,3-b)pyridine | 1 g | ClC1=C2C(=NC(=C1)C)C=NN2 | C7H6ClN3
reactant | CF3COOH | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | piperidine | 10 ml | N1CCCCC1 | C5H11N
product | 5-Methyl-7-piperidino-1H-pyrazolo(4,3-b)pyridine | CC1=CC(=C2C(=N1)C=NN2)N2CCCCC2 | C12H16N4
